US08735586B2
5-Methoxy-2-methyl-1-phenyl-1H-benzimidazole
The title compound was prepared with the analogous procedure described in example 1 using 4-Iodo-3-nitroanisole (140 mg, 0.5 mmol) and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as a pale yellow solid (80 mg, 67%). mp 88-90° C. 1H NMR (DMSO) δ 2.61 (s, 3 H), 3.88 (s, 3 H), 7.07 (d, J=8.9 Hz, 1 H), 7.25 (d, J=8.9 Hz, 1 H), 7.38 (br s, 1 H), 7.65-7.73 (m, 5 H); 13C NMR δ 12.5, 55.9, 97.7, 112.6, 114.7, 126.9, 127.8, 130.2, 130.3, 132.8, 133.1, 151.2, 157.6, 157.8. HRMS (FAB): cal. for C15H15N2O [M+H]+: 239.1184; found: 239.1180.

reactant | 4-Iodo-3-nitroanisole | 0.5 mmol, 140 mg | IC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6INO3
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 5-Methoxy-2-methyl-1-phenyl-1H-benzimidazole | 80 mg, 67% | COC1=CC2=C(N(C(=N2)C)C2=CC=CC=C2)C=C1 | C15H14N2O
